US08026244B2
(a) 1-(1H-Pyrazol-3-ylmethyl)thiourea
The title compound was prepared in accordance with the general method described in Example 12(a) by using 2H-pyrazol-3-yl-methylamine (1.20 g, 12.4 mmol), benzoyl isothiocyanate (1.8 mL, 13.6 mmol) and ammonia in methanol (7N, 60 mL) with the exception that the crude product isolated by filtration (1.39 g, 72% yield) was used in the next step without further purification. MS (ESI) m/z 157 (M+1)

reactant | 2H-pyrazol-3-yl-methylamine | 12.4 mmol, 1.20 g | N=1NC(=CC1)NC | C4H7N3
reactant | benzoyl isothiocyanate | 13.6 mmol, 1.8 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | ammonia | N | H3N
solvent | methanol | 7N, 60 mL | CO | CH4O
product | 1-(1H-Pyrazol-3-ylmethyl)thiourea | 72% yield | N1N=C(C=C1)CNC(=S)N | C5H8N4S
